US08975282B2
Step 2) N-(4-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (217 mg, 0.5 mmol) in DCM (5 mL) was added Et3N (253 mg, 2.5 mmol) and cyclopropanecarbonyl chloride (125 mg, 1.2 mmol) at 0° C. The reaction mixture was stirred at rt for 4 hours, quenched with H2O (10 mL) and extracted with DCM (50 mL×3). The combined organic phases were washed with brine (50 mL×3), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was dissolved in CH3OH (20 mL), and a solution of Na2CO3 (106 mg, 1.0 mmol) in H2O (1 mL). The resulted mixture was stirred at rt for 1 hour and concentrated in vacuo. The residue was purified by a silica gel column chromatography (pure DCM) to give the title compound as a beige solid (158 mg, 63.2%).

reactant | N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.5 mmol, 217 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C23H20FN5O3
reactant | Et3N | 2.5 mmol, 253 mg | CCN(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 1.2 mmol, 125 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Na2CO3 | 1.0 mmol, 106 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 1 mL | O | H2O
product | N-(4-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 158 mg, 63.2% | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C27H24FN5O4
